US08445499B2
Step 4: 1-(5-fluoro-2-methylpyrimidin-4-yl)-1′-(5-fluoropyrimidin-2-yl)-4,4′-bipiperidine
1-(5-fluoro-2-methylpyrimidin-4-yl)-4,4′-bipiperidine (16 mg, 0.058 mmol) and cesium carbonate (57 mg, 0.17 mmol) were stirred in NMP (0.6 ml) and 2-chloro-5-fluoropyrimidine (0.014 mL, 0.116 mmol) was added. The mixture was heated at 70° C. for 1 h. The reaction was cooled down to r.t. and diluted with ethyl acetate (5 mL) and was washed with water 2 mL (×1) and brine 2 mL (×1). The organic phase was dried over magnesium sulfate, filtered, and concentrated on rotavapor. The crude material was purified by preparative TLC with 30% acetone: hexane to yield the titled compound. LC-MS: 375.06 (M+H). Examples reported in Table 14 are prepared in accordance with Procedure 14.1.

reactant | 1-(5-fluoro-2-methylpyrimidin-4-yl)-4,4′-bipiperidine | 0.058 mmol, 16 mg | FC=1C(=NC(=NC1)C)N1CCC(CC1)C1CCNCC1 | C15H23FN4
reactant | cesium carbonate | 0.17 mmol, 57 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-5-fluoropyrimidine | 0.116 mmol, 0.014 mL | ClC1=NC=C(C=N1)F | C4H2ClFN2
solvent | NMP | 0.6 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-fluoro-2-methylpyrimidin-4-yl)-1′-(5-fluoropyrimidin-2-yl)-4,4′-bipiperidine | FC=1C(=NC(=NC1)C)N1CCC(CC1)C1CCN(CC1)C1=NC=C(C=N1)F | C19H24F2N6
